US09341630B2
A mixture of (2-hydroxy-5-nitro-1,3-phenylene)dimethanol (0.50 mmol) and MnO2 (3.5 mmol) was dissolved in 2 ml EtOAc and the reaction was refluxed for 24 hours while being monitored by TLC (using EtOAc/Hexane 30:70 as eluent). The reaction mixture, once completed, was concentrated by evaporation under reduced pressure. The crude product was purified by column chromatography on silica gel (using EtOAc/Hexane 30:70 as eluent) to give 2-hydroxy-5-nitroisophthalaldehyde (40% yield) as a yellow solid.

reactant | (2-hydroxy-5-nitro-1,3-phenylene)dimethanol | 0.50 mmol | OC1=C(C=C(C=C1CO)[N+](=O)[O-])CO | C8H9NO5
reactant | EtOAc Hexane | CCOC(=O)C.CCCCCC
solvent | EtOAc | 2 ml | CCOC(=O)C | C4H8O2
catalyst | MnO2 | 3.5 mmol | O=[Mn]=O
product | 2-hydroxy-5-nitroisophthalaldehyde | 40% yield | OC1=C(C=O)C=C(C=C1C=O)[N+](=O)[O-] | C8H5NO5
